US06936612B2
4-[6-(6-Bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (0.051 g, 0.083 mmol) was dissolved in dichloromethane (3 mL) to which 2 N HCl (2 mL) was added and the resulting mixture was stirred at room temperature for 2 hours. This mixture was concentrated and allowed to sit for 10 days, it was then dissolved in 2 N HCl (2 mL) and stirred at room temperature for 5 hours. The solvent was removed to give 6-bromo-8-cyclopentyl-2-[5-(3,3-dimethyl-piperazin-1-yl)-pyridin-2-ylamino]-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt as a yellow solid (0.035 g, 71.4%). 1H NMR δ (400 MHz, DMSO-d6) 9.32 (s, 2H), 8.98 (s, 1H), 8.04 (d, J=2.7 Hz, 1H), 7.83 (d, J=9.3 Hz, 1H), 7.26 (m, 1H), 5.89 (m, 1H), 3.34 (m, 2H), 3.23 (m, 4H), 2.58 (s, 3H), 2.14 (m, 2H), 1.91 (m, 2H), 1.77 (m, 2H), 1.57 (m, 2H), 1.38 (s, 6H).

reactant | 4-[6-(6-Bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.083 mmol, 0.051 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)Br)=O)C2CCCC2)(C)C | C29H38BrN7O3
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | HCl | 2 N, 2 mL | Cl | ClH
product | 6-bromo-8-cyclopentyl-2-[5-(3,3-dimethyl-piperazin-1-yl)-pyridin-2-ylamino]-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt | 0.035 g, 71.4% | Cl.BrC1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CC(NCC2)(C)C)N(C1=O)C1CCCC1)C | InChI=1S/C24H30BrN7O.ClH/c1-15-18-13-27-23(30-21(18)32(22(33)20(15)25)16-6-4-5-7-16)29-19-9-8-17(12-26-19)31-11-10-28-24(2,3)14-31;/h8-9,12-13,16,28H,4-7,10-11,14H2,1-3H3,(H,26,27,29,30);1H
